US07919519B2
Methyl 1-(3-fluoro-4-(2-(trimethylsilyl)ethynyl)benzyl)azetidine-3-carboxylate (20.9 g, 65 mmol), and cesium fluoride (11 g, 72 mmol), was added to DMF (50 mL). MeOH (100 mL) was added. After 2 h, MeOH was removed and the mixture was extracted with DCM and water. The organic layer is washed with brine and dried over magnesium sulfate. The solvent was removed and the material purified using Biotage (75 L, 7-100% EtOAc/hexanes) affording methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate as light yellow oil. MS (ESI) m/z: Calculated: 247.1; Observed: 248.0 (M++1).

reactant | Methyl 1-(3-fluoro-4-(2-(trimethylsilyl)ethynyl)benzyl)azetidine-3-carboxylate | 65 mmol, 20.9 g | FC=1C=C(CN2CC(C2)C(=O)OC)C=CC1C#C[Si](C)(C)C | C17H22FNO2Si
reactant | cesium fluoride | 72 mmol, 11 g | [F-].[Cs+]
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 100 mL | CO | CH4O
product | methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate | C(#C)C1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C14H14FNO2
